US08975265B2
{1-[4-(6-bromo-8-methyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester
1.25 g (2.81 mmol) {1-[4-(2-Bromo-2-phenyl-acetyl)phenyl]-cyclobutyl}-carbamic acid tert.-butyl ester, 631.4 mg (3.38 mmol) 2-amino-5-bromo-3-methyl-pyridine, 2.15 g molecular sieves (4 Å, dried over night at 120° C. in a drying oven), 363.5 mg (2.81 mmol) N,N-diisopropylethylamine in 12 mL 2-propanol (degassed for 15′) in a microwave vial, sealed with a microwave cap, were heated at 130° C. for 17 hours in a heating block. The reaction mixture was sucked off via a glass fibre filter and the filter was washed with dichloromethane. After evaporation to dryness, the residue was redissolved in dichloromethane (200 mL), washed with an 1 M hydrochloric acid (50 mL), saturated sodium bicarbonate (50 mL) and brine (100 mL) and dried (sodium sulfate). After filtration and removal of the solvent the residue was purified by chromatography on silicagel (eluents: hexane/ethyl acetate) yielding 256.7 mg (17.1%) of the title compound.

reactant | {1-[4-(2-Bromo-2-phenyl-acetyl)phenyl]-cyclobutyl}-carbamic acid tert.-butyl ester | 2.81 mmol, 1.25 g | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C(C(C1=CC=CC=C1)Br)=O)=O | C23H26BrNO3
reactant | 2-amino-5-bromo-3-methyl-pyridine | 3.38 mmol, 631.4 mg | NC1=NC=C(C=C1C)Br | C6H7BrN2
reactant | N,N-diisopropylethylamine | 2.81 mmol, 363.5 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-propanol | 12 mL | CC(C)O | C3H8O
product | {1-[4-(6-bromo-8-methyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 256.7 mg, 17.1% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2C)Br)C1C1=CC=CC=C1)=O | C29H30BrN3O2
